US08835632B2
4.3.1.3. Synthesis of (2E,3E,5Z)-5-(1,1-dioxido-3-oxo-1-benzothien-2(3H)-ylidene)-2-(3-ethyl-1,3-benzothiazol-2(3H)-ylidene)pent-3-enenitrile (S-SO-CN)
In a one-necked round bottom 100-mL flask equipped with magnetic stir bar and reflux condenser were added 2-(cyanomethyl)-3-ethyl-1,3-benzothiazol-3-ium iodide (1.00 g, 3.03 mmol), (2Z)-2-[(2E)-3-methoxyprop-2-en-1-ylidene]-1-benzothiophen-3-(2H)-one 1,1-dioxide (1.00 g, 4.00 mmol) and CHCl3-MeOH mixture (1:1, 20 mL). The flask was heated on an oil bath with stirring until boiling began, and a solution of sodium acetate (320 mg, 4.00 mmol) in 10 mL of methanol was added to the flask. The stirring was continued under reflux for an additional 30 min. The flask was cooled to room temperature and the precipitated solid was filtered, washed with methanol and dried. Green crystals. The yield was 730 mg (57% of theory).

reactant | 2-(cyanomethyl)-3-ethyl-1,3-benzothiazol-3-ium iodide | 3.03 mmol, 1.00 g | [I-].C(#N)CC=1SC2=C([N+]1CC)C=CC=C2
reactant | (2Z)-2-[(2E)-3-methoxyprop-2-en-1-ylidene]-1-benzothiophen-3-(2H)-one 1,1-dioxide | 4.00 mmol, 1.00 g | CO/C=C/C=C/1\S(C2=C(C1=O)C=CC=C2)(=O)=O | C12H10O4S
reactant | CHCl3 MeOH | 20 mL | C(Cl)(Cl)Cl.CO
reactant | sodium acetate | 4.00 mmol, 320 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (2E,3E,5Z)-5-(1,1-dioxido-3-oxo-1-benzothien-2(3H)-ylidene)-2-(3-ethyl-1,3-benzothiazol-2(3H)-ylidene)pent-3-enenitrile | O=S1(\C(\C(C2=C1C=CC=C2)=O)=C/C=C/C(/C#N)=C/2\SC1=C(N2CC)C=CC=C1)=O | C22H16N2O3S2
